### PR TITLE
Add Erdős Problem 1006 (acyclic orientations stable under edge reversal), link the formal disproof

### LINKED ISSUE #6279: Erdős Problem 1006
### What is the Erdős problem?

https://www.erdosproblems.com/1006

Let $G$ be a graph with girth $>4$ (that is, it contains no cycles of length $3$ or $4$). Can the edges of $G$ always be directed such that there is no directed cycle, and reversing the direction of any edge also creates no directed cycle?

Status: disproved (Nešetřil–Rödl, for every girth). A formal proof exists in plby/lean-proofs (`Erdos1006.not_erdos_1006`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6279.

### What changed
Adds `FormalConjectures/ErdosProblems/1006.lean` with `IsAcyclic D` (no directed cycle, via `Relation.TransGen`), `reverseArc D a b`, and:
- `erdos_1006` (`research solved`, `answer(False)`): it is false that every graph of girth `> 4` (`4 < G.egirth`) has an acyclic orientation (`Digraph.IsOrientation`) all of whose single-arc reversals are acyclic (Nešetřil–Rödl [NeRo78b]). Linked to plby/lean-proofs `Erdos1006.not_erdos_1006` (Codex and GPT-5.6 Sol; three Mathlib-only files, a probabilistic construction on `2^64` vertices).
- `erdos_1006.variants.nesetril_rodl`: the statement for every girth.

### How checked
- Rebuilt plby's files against this repo's Mathlib: `#print axioms Erdos1006.not_erdos_1006` → `[propext, Classical.choice, Quot.sound]`. (One adjustment was needed for Lean 4.33.1: the kernel now refuses to evaluate `120 ^ K` with `K = 8192·2^64`, so the constant `N := 2^64` was made `irreducible_def` and one `rfl` replaced by `N_def`; the proofs are otherwise unchanged.)
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby states "girth `> 4`" as "no triangle and no `4`-cycle"; the bridge derives this from `4 < egirth` via `IsCycle.getVert_injOn`):

<details>
<summary>Bridge</summary>

```lean
open SimpleGraph

namespace Bridge1006

variable {V : Type*}

/-- No triangle and no `4`-cycle means girth `> 4`. -/
lemma four_lt_egirth {G : SimpleGraph V} (h3 : ¬ Erdos1006Plby.HasTriangle G)
    (h4 : ¬ Erdos1006Plby.HasFourCycle G) : 4 < G.egirth := by
  rw [← ENat.add_one_le_iff (by simp), show (4 : ℕ∞) + 1 = 5 by norm_num, le_egirth]
  intro a w hw
  have hlen := hw.three_le_length
  by_contra hlt
  have hlt' : w.length < 5 := by exact_mod_cast not_le.1 hlt
  have hinj := hw.getVert_injOn
  simp only [Set.InjOn, Set.mem_ofPred_eq] at hinj
  have hadj : ∀ i, i < w.length → G.Adj (w.getVert i) (w.getVert (i + 1)) :=
    fun i hi => w.adj_getVert_succ hi
  have hne : ∀ i j, 1 ≤ i → i ≤ w.length → 1 ≤ j → j ≤ w.length → i ≠ j →
      w.getVert i ≠ w.getVert j := fun i j hi hi' hj hj' hij h =>
    hij (hinj ⟨hi, hi'⟩ ⟨hj, hj'⟩ h)
  rcases (by omega : w.length = 3 ∨ w.length = 4) with hl | hl
  · refine h3 ⟨w.getVert 1, w.getVert 2, w.getVert 3, ?_, ?_, ?_, ?_, ?_, ?_⟩
    · exact hne 1 2 (by omega) (by omega) (by omega) (by omega) (by omega)
    · exact hne 1 3 (by omega) (by omega) (by omega) (by omega) (by omega)
    · exact hne 2 3 (by omega) (by omega) (by omega) (by omega) (by omega)
    · exact hadj 1 (by omega)
    · exact hadj 2 (by omega)
    · have := hadj 0 (by omega)
      rw [w.getVert_zero] at this
      rw [show 3 = w.length from hl.symm, w.getVert_length]
      exact this
  · refine h4 ⟨w.getVert 1, w.getVert 2, w.getVert 3, w.getVert 4, ?_, ?_, ?_, ?_, ?_, ?_,
      ?_, ?_, ?_, ?_⟩
    · exact hne 1 2 (by omega) (by omega) (by omega) (by omega) (by omega)
    · exact hne 1 3 (by omega) (by omega) (by omega) (by omega) (by omega)
    · exact hne 1 4 (by omega) (by omega) (by omega) (by omega) (by omega)
    · exact hne 2 3 (by omega) (by omega) (by omega) (by omega) (by omega)
    · exact hne 2 4 (by omega) (by omega) (by omega) (by omega) (by omega)
    · exact hne 3 4 (by omega) (by omega) (by omega) (by omega) (by omega)
    · exact hadj 1 (by omega)
    · exact hadj 2 (by omega)
    · exact hadj 3 (by omega)
    · have := hadj 0 (by omega)
      rw [w.getVert_zero] at this
      rw [show 4 = w.length from hl.symm, w.getVert_length]
      exact this

lemma goodOrientation_of {G : SimpleGraph V} {D : Digraph V} (hD : D.IsOrientation G)
    (hac : Erdos1006.IsAcyclic D)
    (hrev : ∀ a b, D.Adj a b → Erdos1006.IsAcyclic (Erdos1006.reverseArc D a b)) :
    Erdos1006Plby.GoodOrientation G D.Adj := by
  refine ⟨⟨fun u v h => hD.1 u v h, fun u v h => ?_⟩, hac, fun a b hab => hrev a b hab⟩
  have := hD.2 u v h
  unfold Erdos1006Plby.ExactlyOne
  tauto

theorem erdos_1006_bridge : type_of% Erdos1006.erdos_1006 := by
  show False ↔ _
  simp only [false_iff]
  intro h
  obtain ⟨n, G, hgirth, hbad⟩ := Erdos1006Plby.not_erdos_1006
  obtain ⟨D, hD, hac, hrev⟩ := h (Fin n) G (four_lt_egirth hgirth.1 hgirth.2)
  exact hbad ⟨D.Adj, goodOrientation_of hD hac hrev⟩

end Bridge1006
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«1006»` passes.

### CODE REVIEW

**Review by mo271 — COMMENTED** [review]
Digraph IsAcyclic (no Mathlib/ForMathlib counterpart) belongs in Combinatorics/Digraph/, next to IsOrientation which the PR reuses

File: FormalConjectures/ErdosProblems/1006.lean [hunk 1]
```diff
@@ -0,0 +1,81 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1006.lean:2]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```
